US07767672B2
N-tert-butyl-3-methylazetidin-3-amine hydrochloride
To a slurry of N-tert-butyl-1-benzhydryl-3-methylazetidin-3-amine hydrochloride (1.69 g, 4.91 mmol) in ethanol (30 ml) was added 10% Palladium hydroxide on carbon (160 mg) and the mixture degassed three times with nitrogen and three times with hydrogen. The mixture was then stirred under a hydrogen atmosphere 40° C. (warm water bath) for 3 h and then at room temperature for a further 12 h. The reaction was degassed with nitrogen and filtered through celite and concentrated. The compound was used crude in subsequent chemistry. 1H NMR (MeOH) 1.50 (9H, s), 1.99 (3H, s), 4.19 (2H, d), 4.91 (2H, d).

reactant | N-tert-butyl-1-benzhydryl-3-methylazetidin-3-amine hydrochloride | 4.91 mmol, 1.69 g | Cl.C(C)(C)(C)NC1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Palladium hydroxide on carbon | 160 mg | [OH-].[OH-].[Pd+2]
product | N-tert-butyl-3-methylazetidin-3-amine hydrochloride | Cl.C(C)(C)(C)NC1(CNC1)C | InChI=1S/C8H18N2.ClH/c1-7(2,3)10-8(4)5-9-6-8;/h9-10H,5-6H2,1-4H3;1H
